US04293465
Bis[(dicyclohexylphosphinyl)methyl]terephthalate
Terephthaloyl chloride (6.1 g, 0.03 mole) in 30 ml benzene was added dropwise to a mixture of dicyclohexyl hydroxymethyl phosphine oxide and triethylamine at 50° C. maximum. The reaction mixture was heated to reflux for 30 minutes and the product was filtered, washed with water and dried; m.p. 226°-228.5° C.

reactant | Terephthaloyl chloride | 0.03 mole, 6.1 g | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | dicyclohexyl hydroxymethyl phosphine oxide | C1(CCCCC1)P(CO)(C1CCCCC1)=O | C13H25O2P
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | Bis[(dicyclohexylphosphinyl)methyl]terephthalate | C1(CCCCC1)P(=O)(C1CCCCC1)COC(C1=CC=C(C(=O)OCP(=O)(C2CCCCC2)C2CCCCC2)C=C1)=O | C34H52O6P2
